US05298520
A solution of formaldehyde (80 mg of a 30% solution) in methanol (15 ml) was added to a stirred solution of 2-[5-(2-methyltetrazol-5-ylmethyl)-1H-indol-3-yl]ethylamine (0.1 g, 0.4 mmol), NaCNBH3 (60 mg) and glacial acetic acid (0.12 g) in methanol (15 ml). The solution was stirred for 2 h, basified with K2CO3 solution and the MeOH removed under vacuum. The crude product obtained after extraction into ethylacetate and removal of solvent was chromatographed through silica-gel eluting with CH2Cl2 /EtOH/NH3 (40:8:1) to give the desired N,N-dimethyltryptamine (96 mg, 87%). The oxalate salt was prepared: mp 185°-187° C. (MeOH/Et2O); (Found: C, 54.42; H, 5.74; N, 22.53. C15H20N6.C2H2O4 requires C, 54.54; H, 5.92; N, 22.45%); δ (360 MHz, D2O) 2.91 (6H, s, 2 of CH3); 3.21 (2H, t, J=7.4 Hz, CH2); 3.47 (2H, J=7.4 Hz, CH2); 4.30 (3H, s, CH3); 4.34 (2H, s, CH2); 7.17 (1H, dd, J=1.5 and 8.4 Hz, Ar-H); 7.33 (1H, s, Ar-H); 7.48 (1H, d, J=8.4 Hz, Ar-H); 7.59 (1H, s, Ar-H).

reactant | formaldehyde | C=O | CH2O
reactant | 2-[5-(2-methyltetrazol-5-ylmethyl)-1H-indol-3-yl]ethylamine | 0.4 mmol, 0.1 g | CN1N=C(N=N1)CC=1C=C2C(=CNC2=CC1)CCN | C13H16N6
reactant | NaCNBH3 | 60 mg | [BH3-]C#N.[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
solvent | acetic acid | 0.12 g | C(C)(=O)O | C2H4O2
product | N,N-dimethyltryptamine | 96 mg, 87% | CN(CCC1=CNC2=CC=CC=C12)C | C12H16N2
